US05567716
Preparation of silver trans-traumatate
2.28 g of trans-traumatic acid (10 mmol) are suspended in 20 ml water at 4° C., neutralized using NaOH 1N, sheltered from light. The resulting suspension, kept at 4° C., is exposed to a nitrogen stream and a solution of 3.4 g AgNO3 in 20 ml water is slowly added drop by drop under continuous stirring.

reactant | trans-traumatic acid | 10 mmol, 2.28 g | C(\C=C\CCCCCCCCC(=O)O)(=O)O | C12H20O4
reactant | NaOH | 1N | [OH-].[Na+]
reactant | AgNO3 | 3.4 g | [N+](=O)([O-])[O-].[Ag+]
solvent | water | 20 ml | O | H2O
solvent | water | 20 ml | O | H2O
product | silver trans-traumatate | C(\C=C\CCCCCCCCC(=O)[O-])(=O)[O-].[Ag+2] | InChI=1S/C12H20O4.Ag/c13-11(14)9-7-5-3-1-2-4-6-8-10-12(15)16;/h7,9H,1-6,8,10H2,(H,13,14)(H,15,16);/q;+2/p-2/b9-7+;
